US09169259B2
To a mixture of 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol (40 mg, 0.1 mmol) and K2CO3 (28 mg, 0.2 mmol) in DMF (5 mL) was added 2-(diethylamino)ethyl methanesulfonate (30 mg, 0.15 mmol). The mixture was heated at 50° C. for 15 h. After cooling, the mixture was poured into water and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine and dried over MgSO4. After filtration and concentration, the residue was purified by chromatography (silica, EtOAc) to give 6-(4-(2-(diethylamino)ethoxy)phenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (20 mg, 40%). 1H NMR (300 MHz, CDCl3): δ 8.59 (s, 1H), 8.06-7.90 (m, 4 h), 7.58 (s, 1H), 7.42 (t, 1H, J=7.6 Hz), 7.03-7.00 (m, 2H), 6.23 (d, 1H, J=7.2 Hz), 6.05 (d, 1H, J=8.1 Hz), 4.57 (brs, 2H), 4.27 (brs, 1H), 3.67 (brs, 1H), 3.52-3.41 (m, 3H), 3.22-3.20 (m, 4 h), 2.16-2.06 (m, 3H), 1.80 (brs, 1H), 1.45 (t, 6H, J=6.9 Hz), 1.28 (d, 3H, J=6.3 Hz). LC/MS: 486 [M+H]+, tR=1.12 min. HPLC: 98.72% at 214 nm, 99.10% at 254 nm, tR=5.46 min.

reactant | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol | 0.1 mmol, 40 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C=C1)O)C=CN2 | C22H22N6O
reactant | K2CO3 | 0.2 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(diethylamino)ethyl methanesulfonate | 0.15 mmol, 30 mg | CS(=O)(=O)OCCN(CC)CC | C7H17NO3S
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(4-(2-(diethylamino)ethoxy)phenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 20 mg, 40% | C(C)N(CCOC1=CC=C(C=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C)CC | C28H35N7O
